US06787544B2
In 10 mL of dimethylformamide is suspended 0.5 g of 3,5-dihydroxy-1,2,4-triazine-6-carboxylic acid obtained according to the method described in literature (JP-A-54-79292). Then, 2.06 g of N,N′-carbonyldiimidazole is added thereto, and the resulting solution in stirred at ambient temperature for 6 hours. The reaction mixture is cooled with ice, saturated with gaseous ammonia, and then stirred for 15 minutes at the same temperature as above. The deposited crystals are collected by filtration to obtain 0.37 g of 3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxamide.

reactant | 3,5-dihydroxy-1,2,4-triazine-6-carboxylic acid | 0.5 g | OC=1N=NC(=C(N1)O)C(=O)O | C4H3N3O4
reactant | ammonia | N | H3N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxamide | 0.37 g | O=C1NN=C(C(N1)=O)C(=O)N | C4H4N4O3
